US07217736B2
4-Phenyl-1-butyl 5-amino-4-oxopentanoate hydrochloride [compound 14]
From 4-phenyl-1-butanol (5.0 g; 33 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol) at 70° C. The reaction was complete after 29 h. The yield was 1.22 g (68%).

reactant | 4-phenyl-1-butanol | 33 mmol, 5.0 g | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 4-Phenyl-1-butyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCCCCC1=CC=CC=C1)=O | InChI=1S/C15H21NO3.ClH/c16-12-14(17)9-10-15(18)19-11-5-4-8-13-6-2-1-3-7-13;/h1-3,6-7H,4-5,8-12,16H2;1H
